US09416138B2
2-Chloro-3-[[(2S)-oxiran-2-yl]methoxy]pyridine
Combine (R)-oxiranemethanol (32.85 g, 443.5 mmol) with 2-chloro-3-hydroxypyridine (52.23 g, 403.18 mmol) in THF (1.34 L). Stir the mixture until the solids dissolve. Cool it to 0° C. and slowly add triphenylphosphine (116.33 g, 443.5 mmol). After all the solids dissolve, add diisopropyl azodicarboxylate (87.92 mL, 443.5 mmol) drop-wise over 25 minutes at a sufficiently slow rate to maintain the internal temperature of the reaction below 10° C. Stir the mixture while cooling for 30 minutes then allow the mixture to warm to ambient temperature and continue stirring overnight. Add EtOAc, and wash with NaOH (2×1.0 N). Dry the organic layer over Na2SO4; filter; and concentrate the filtrate under reduced pressure. Triturate the residue with a mixture of 2:1 Et2O: hexanes and stir for 5 minutes. Filter and concentrate the filtrate under reduced pressure to provide a residue. Purify the residue via flash column chromatography (2×330 g SiO2), eluting with a gradient of 0-66% THF/Hexane. Combine the desired fractions, and concentrate under reduced pressure to provide the title compound (32.6 g, 43.6%) as a white solid. MS (m/z): 186 (M+1).

reactant | (R)-oxiranemethanol | 443.5 mmol, 32.85 g | O1[C@@H](C1)CO | C3H6O2
reactant | 2-chloro-3-hydroxypyridine | 403.18 mmol, 52.23 g | ClC1=NC=CC=C1O | C5H4ClNO
reactant | triphenylphosphine | 443.5 mmol, 116.33 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 443.5 mmol, 87.92 mL | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | THF | 1.34 L | C1CCOC1 | C4H8O
product | 2-Chloro-3-[[(2S)-oxiran-2-yl]methoxy]pyridine | 32.6 g, 43.6% | ClC1=NC=CC=C1OC[C@H]1OC1 | C8H8ClNO2
